US04544670
Step II. 1-(2,6-dichlorocinnamoyl)-3-ethylguanidine hydrochloride
A mixture of 7.48 g of a 50% sodium hydroxide solution, 12.72 g of ethylguanidine sulfate, and 120 ml of tetrahydrofuran is stirred for 45 minutes. Anhydrous sodium sulfate (12 g) is added to the mixture and stirred for 40 minutes. 11.0 g of 2,6-dichlorocinnamoyl chloride in 40 ml of anhydrous tetrahydrofuran are added dropwise to the resulting mixture and stirred overnight. The reaction mixture is filtered, concentrated in vacuo and the resulting yellow oil partitioned between 100 ml of methylene chloride and 150 ml of H2O. The aqueous layer is extracted with methylene chloride, the combined organic extract is dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to a yellow oil. The resulting oil crystallizes on standing. The crystallized solid is dissolved in hot acetonitrile, filtered and recrystallized. The white solid is collected and dried in air, M.P. 166°-171° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethylguanidine sulfate | 12.72 g | S(=O)(=O)(O)O.C(C)NC(=N)N
reactant | sodium sulfate | 12 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,6-dichlorocinnamoyl chloride | 11.0 g | ClC1=C(C=CC(=O)Cl)C(=CC=C1)Cl | C9H5Cl3O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1-(2,6-dichlorocinnamoyl)-3-ethylguanidine hydrochloride | Cl.ClC1=C(C=CC(=O)NC(=N)NCC)C(=CC=C1)Cl | InChI=1S/C12H13Cl2N3O.ClH/c1-2-16-12(15)17-11(18)7-6-8-9(13)4-3-5-10(8)14;/h3-7H,2H2,1H3,(H3,15,16,17,18);1H
